US07365085B2
b) 2-(3-{3-[[2-Chloro-3-(trifluoromethyl)benzyl](2-acetoxy-2-phenyl-ethyl)amino]propoxy}-phenyl)acetic acid hydrochloride salt
To a solution of 2-(3-{3-[[2-chloro-3-(trifluoromethyl)benzyl](2-acetoxy-2-phenyl-ethyl)amino]propoxy}-phenyl)acetic acid in ethyl ether was added HCl in diethyl ether (1.0M). The suspension was filtered and dried to give the title compound as a white solid (99%). NMR(400 MHz, CD3OD) δ: 7.8 (m, 3H), 7.3 (s, 5H), 7.1 (t, J=4.0 Hz, 1H), 6.7 (m, 3H), 6.1 (m, 1H), 4.0 (m, 2H), 3.6-3.4 (m, 7H), 2.2 (m, 2H), 1.9 (s, 3H), 1.1 (t, J=4.2 Hz, 2H).

reactant | 2-(3-{3-[[2-chloro-3-(trifluoromethyl)benzyl](2-acetoxy-2-phenyl-ethyl)amino]propoxy}-phenyl)acetic acid | ClC1=C(CN(CCCOC=2C=C(C=CC2)CC(=O)O)CC(C2=CC=CC=C2)OC(C)=O)C=CC=C1C(F)(F)F | C29H29ClF3NO5
reactant | HCl | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 1.0M | C(C)OCC | C4H10O
product | 2-(3-{3-[[2-Chloro-3-(trifluoromethyl)benzyl](2-acetoxy-2-phenyl-ethyl)amino]propoxy}-phenyl)acetic acid hydrochloride salt | 99% | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)CC(=O)O)CC(C2=CC=CC=C2)OC(C)=O)C=CC=C1C(F)(F)F | InChI=1S/C29H29ClF3NO5.ClH/c1-20(35)39-26(22-9-3-2-4-10-22)19-34(18-23-11-6-13-25(28(23)30)29(31,32)33)14-7-15-38-24-12-5-8-21(16-24)17-27(36)37;/h2-6,8-13,16,26H,7,14-15,17-19H2,1H3,(H,36,37);1H
